Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
___ Complaint:
Fever, altered mental status
 
Major Surgical or Invasive Procedure:
ERCP
___ guided drainage of abcess

 
History of Present Illness:
___ yo m s/p liver transplant ___, with chronic rejected from 
recurrent hep C now admitted to MICU with AMS, fever and apnea 
requiring intubation. Pt unable to relay his hx, but per ER, pt 
had been having increased AMS and fevers at home after his 
recent hospitalization from ___ to ___. Pt was treated at that 
hospitalization for an elevated INR and worsening 
encephalopathy.  
.  
Per sister by phone, pt was more congested for last week over 
the phone. ___ stopped Coumadin due to elevated INR. Sister 
is concerned about his lungs. Was given z pack as out pt before 
hospitalization, but never filled Rx from pharmacy.  
.  
In the ED, initial vs were: T 102.1 P 88 BP 117/56 R 20 O2 sat. 
99% 10L on NRB. Had rectal temp of 103. Patient was given vanco 
1 g, ceftriaxone 2g, Decadron 10mg IV, Flagyl 500mg IV, 
etomidate 20mg, Succ 120mg, Propofol gtt, Lactulose 40gm, and 1 
liter IVF. Had an LP, not consistent with menigitis. Lowest BP 
was 93/46. Pt was intubated due to apena with RR of 6, vent set 
on CMV, TV of 500, RR of 14, PEEP of 5, FIO2 of 100%. Had a 
negative head CT. Blood, urine, and CSF cx sent. CXR without 
acute changes. Also had a Foley placed with 475ml UO. EKG 
unremarkable.  
.  
Review of sytems:  
pt unable to answer questions  

 
Past Medical History:
-ITP  
-SVT last episode approximately ___, medically managed at this  

time  
-Hepatitis C  
-ESLD s/p liver Tx ___, s/p revision ___ complicated with  

rejection and steroid use since ___ to present; also  
complicated with Hepatitis C recurrence and restarted peg  
interferon ___. Hep C possibly contracted from ___.  
-Thoracic compression fractures: ___  
-Cognitive disorders: h/o post hypoxic encephalopathy ___.  
-Depression /anxiety  
-Neutropenia and infections including c. diff x3, streptococcal  

septicemia, anal fistula  
-History of fistula in anus s/p Fistulectomy ___  
-Chronic pain especially rectal pain  
-Diabetes : steroid induced, managed at ___, recent  
HBA1C 5.1 % ( had received blood transfusions with splenectomy 
),  
insulin requirements decreased  
-S/p Appy  
-S/p tonsillectomy  
-Bilateral inguinal hernia  
-S/p hernia repair which has failed  
-S/p umbilical hernia repair and right inguinal hernia repair  
___  
-S/p ccy  
-Left sided hydronephrosis due to obstruction from splenomegaly, 
 
s/p left ureteral stent placement ___.  
-Secondary hyperparathyroidism due to CKD managed by Dr. ___  

at ___.  
-Splenectomy, distal pancreatectomy, c/w fistula, s/p spent and  

then removal ___  

 
Social History:
___
Family History:
Mother has DM2 and HTN. Uncle with cancer in his ___ (unknown 
site). Denies any family history of MI, sudden cardiac death, 
stroke and lung diseases has DM2 
 
 
Physical Exam:
Vitals: T: 97.6 BP: 97/64 P: 58 R: 13 18 O2: 100% on FIO2 100% 
CMV  
General: intubated, sedated  
HEENT: dry MM, clear OP  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley in place  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
___ Head CT: There is no evidence for acute hemorrhage, edema, 
mass effect, or recent infarction. The gray-white matter 
differentiation is preserved. There is prominence of the 
ventricles and sulci, unchanged from prior examinationand 
consistent with diffuse parenchymal atrophy. This is slightly 
more prominent than would be expected for the patient's age, 
however, is unchanged from ___. The visualized paranasal 
sinuses and mastoid air cells are unremarkable. No osseous 
abnormality is identified. 

___ CXR:
1. Mild fluid overload. 
2. Bibasilar opacities may be due to a atelectasis, but 
infectious 
consolidation is not excluded. 

___ ERCP:
ERCP: Images demonstrate cannulation of the pancreatic duct with 
no obvious filling abnormalities or contrast extravasation. An 
abrupt cutoff is present, reflecting prior distal 
pancreatectomy. A plastic pancreatic duct stent was placed. 
Subsequent injection of the common bile duct demonstrates distal 
filling 
defects consistent with stones. Contrast is seen entering the 
jejunum, 
consistent with prior choledochojejunostomy. 
.
___ CT abdomen: 1. Interval placement of a left flank pigtail 
catheter with apparent drainage of abscess/fluid, but persisting 
phlegmon, albeit decreased in size. 
2. Apparent resolution of right lower lobe pneumonia. Resolution 
of right 
pleural effusion and persisting small left pleural effusion. 
3. Unchanged appearance of extensive portal/mesenteric/splenic 
venous clot. 
4. Persistent omental varices.   
5. Stable renal cysts. 
.
___ 09:10PM   WBC-21.1*# RBC-3.16* HGB-10.5* HCT-33.1* 
MCV-105* MCH-33.1* MCHC-31.6 RDW-16.1*
___ 09:10PM   ALBUMIN-2.8* CALCIUM-9.7 PHOSPHATE-3.2 
MAGNESIUM-1.6
___ 09:10PM   LIPASE-49
___ 09:10PM   ALT(SGPT)-33 AST(SGOT)-99* ALK PHOS-335* TOT 
BILI-3.6*
___ 09:10PM   GLUCOSE-63* UREA N-36* CREAT-1.5* SODIUM-137 
POTASSIUM-5.5* CHLORIDE-104 TOTAL CO2-25 ANION GAP-14
___ 09:15PM   AMMONIA-79*
___ 09:16PM   LACTATE-1.4
___ 09:21PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM UROBILNGN-8* PH-5.0 LEUK-NEG
___ 12:30AM CEREBROSPINAL FLUID (CSF)  WBC-4 RBC-276* 
POLYS-20 ___ MACROPHAG-2
___ 12:30AM CEREBROSPINAL FLUID (CSF)  WBC-2 RBC-21* 
POLYS-0 ___ ___ 12:30AM CEREBROSPINAL FLUID (CSF)  PROTEIN-32 
GLUCOSE-50
___ 04:36AM   WBC-28.0* RBC-3.17* HGB-10.5* HCT-33.4* 
MCV-105* MCH-33.0* MCHC-31.4 RDW-16.5*
___ 04:36AM   tacroFK-9.1
___ 05:19AM   TYPE-ART O2-50 PO2-143* PCO2-46* PH-7.38 
TOTAL CO2-28 BASE XS-1 -ASSIST/CON INTUBATED-INTUBATED
 
Brief Hospital Course:
___ yo m with hx of liver transplant with recurrent cirrhosis, 
admitted with AMS, fever, and apnea.  
.
AMS/Encephalopathy: Presentation to ICU with altered mental 
status was initially secondary to hepatic encephalopathy and 
delerium from multiple infections: pneumonia and abdominal 
abcess.  Initial work up involved: a lumbar puncture with normal 
CSF, CT of the head sig for no acute process, and negative blood 
and urine cultures.  An ultrasound of the abdomen showed chronic 
portal vein thrombosis.  Patient was continued on lactulose and 
started on rifaximin for hepatic encephalopathy.  Mental status 
decompensated ___ during hospitalization secondary to 
iatrogenic narcotic overdose (see below for full details) in the 
ICU, but improved with narcan x1 and holding of all sedating 
medications (oxycodone, methadone, and trazadone).  Mental 
status improved to baseline with treatment of multiple infection 
and rifaimin and lactulose.
.
Apnea: Patient was found to be apneic and intubated in the ED.  
Respiratory depression was felt to be related to hepatic 
encephalopathy and delirium secondary to PNA and abdominal 
abscess infections.  Patient was extubated on ___ without any 
complications.   On ___ patient was agitated, placed on wrist 
restraints, and given haldol, trazadone and oxycodone in the 
ICU.  Upon transfer to the floor the subsequent day the patient 
was apneic with constricted pupils secondary to iatrogenic 
oversedation.  He was given narcan x1 and respiratory status 
improved.  All sedating medications, oxycodone, methadone, and 
trazadone were held.  Patient remained stable on room air 
without any respiratory problems and was restarted on his home 
dose of trazadone at a later date.  Patient had self tapered 
from methadone (see below) and this was not restarted as he no 
longer complained of pain. 
.  
Pneumonia: On presentation, patient was febrile with 
leukocytosis and was started on broad spectrum antibiotics.  A 
CT ___ showed a RLL pneumonia with parapneumonic effusions.  
Patient completed a course of antibiotic therapy for community 
acquired vs aspiration pneumonia with cefepime (___) and 
leukocytosis improved.  Interval CXR improvement of 
consolidation and repeat CT showed resolution of pneumonia.
.
LUQ abcess: This abcess is a recurrent process after distal 
pancreatectomy and splenectomy and has required multiple courses 
of IV antibiotics and drainage in the past.  Patient initially 
was started on Vanc (___), Flagyl (___), and 
Cipro (___).  CT of abdomen showed abdominal abcess (4 x 10cm) 
and patient went for ___ guided drainage.  Initial set of abcess 
cultures demonstrated proteus resistant to cipro.  He antibiotic 
regimen were changed to Flagyl (day 1: ___ and Cefepime 
(day 1: ___ and restarted ___.  A picc line was 
placed ___.  Patient was put on trial of PO bactrim DS 
monotherapy, which he failed and cefepime iv was reinitiated 
(___).  A second set of abcess cultures were sent which showed 
ESBL organism (pan-resistant klebsiella).  Infectious disease 
was consulted and the patient was maintained on iv cefepime 
throughout the rest of his hospitalization and the JP drain 
continued to drain ___ of serosangounous fluid.  Patient 
underwent ERCP with stent placement in the CBD for prevention of 
future reaccumulation.  A repeat CT of the abdomen ___ showed 
improvement of the fluid collection.  JP drain accidentally fell 
out when patient getting up out of bed ___ and was unable to 
be replaced under ___ because fluid collection not observable on 
CT.  Patient was discharged with iv meropenem ___ to rehab 
with follow up with infectious disease to determine when 
antibiotic would be transitioned to PO prophylactic regimen.  
.
Nutrition: An NGT was placed in the ICU and discontinued upon 
transfer to the floor.  The patient passed speech and swallow, 
but continued to have very poor PO intake while on the floors.  
Nutrition was consulted and calorie counts were done.  Patient 
was encouraged to increase PO intake but reported little 
appetite, and abdominal discomfort with eating.  A decision was 
made to replace feeding tube on ___ and tube feeds were 
started.
.
Hypercalcemia: Patient had hypercalcemia, and was maintained on 
IVFs.  TSH and cortisol were normal, and a PTH was abnormally 
within normal limits.  His endocronologist was contacted, who 
reported secondary hyperparathyroid disease from vitamin D 
deficiency.  His calcitriol was discontinued, with some 
improvement in his calcium levels.  A PTHrP was pending.  
Patient was discharged on his home dose of oral bisphosphonate.
.  
S/p liver transplant with recurrent liver failure: Tacro level 
elevated and on ___ was changed from home dose of 0.5 mg bid 
to 0.5 ever other day.  Elevation in trough thought to be in the 
setting of multiple antibiotics and being off coumadin. Patient 
was continued lamivudine for ppx and home ursodiol.  He was 
treated with lactulose and rifaximin was started.  Bactrim was 
changed to dapsone for PCP prophylaxis as patient was 
persistantly hyperkalemic.
. 
Chronic Pain: Patient has chronic rectal pain s/p fissures and 
multiple complications.  A rectal tube was put in place for skin 
protection given multiple bowel movements while uptitrating 
lactulose.  Rectal tube was d/c'd on ___.  While in the ICU, 
patient receiving home dose of gabapentin.  He was also given 
5mg Methadone tid, as regular dose could not be confirmed, and 
10mg of oxycodone.  On transfer to the floor patient was apneic 
secondary to overdose of sedating medications and narcan was 
given x1 with improvement in respiratory status.  Methadone and 
oxycodone were discontinued.  Pain was not an issue on this 
admission and methadone was not restarted as he was 
self-tapered.
.
PVT: Patient has chronic PVT and was on coumadin as outpatient.  
Coumadin was d/c since last hospitalization in the setting of 
elevated INR.  Decision made to keep patient permanently off 
coumadin.
.
Anemia: Patient has chronic anemia secondary to liver disease.  
Hematocrit remained stable throughout hospitalization.  
.   
Diabetes: BS only mildly elevated patient was initially 
maintained on ISS.  This was discontinued as his fingersticks 
were within normal limits. 
.  
Hypertension: Initially atenolol and Cartia were held given an 
episode of bradycardia in the MICU.  HR improved and patient was 
started on metoprolol while inpatient.  BP remained stable and 
he had no further episode of bradycardia.
.
SVT: Patient has a history of SVT, with a normal ECG in the 
emergency room.  Patient had an episode of bradycardia in the 
MICU (as above) and so diltiazam and atenolol were initially 
held.  Patient was subsequently started on metoprolol while 
inpatient and diltiazam was held.  Heart rate remained in 60-70s 
throughout remainder of hospitalization. 
.  
Coagulopathy: Patient had a recent supratheraputic INR, and 
coumadin was not restarted.  Coags were monitored and INR 
decreased and remained stable at 1.3. 
.
HyperKalemia: Patient had episodes of hyperkalemia, with normal 
ECGs and treated with kayexelate.  A hemolysis work up was done 
and was negative. His bactrim ppx was d/c'd and switched to 
dapsone.  Patient was started on florinef with improvement in K. 
 Florinef was discontinued and K remained within normal limits 
throughout rest of his hospitalization.
.
Depression: Patient was continued on home dose of sertraline.  A 
family meeting was arranged to discuss goals of care.  Patient 
expressed that he wanted to live and have optimal medical 
manegement.

 
Medications on Admission:
Medications: (from prior d/c summary)  
1. Atenolol 50 mg PO once a day.  
2. Cartia XT 180 mg PO once a day.  
3. Lamivudine 100 mg PO DAILY  
4. Lasix 40 mg Tablet once a day.  
Disp:*30 Tablet(s)* Refills:*2*  
5. Methadone 10 mg PO DAILY  
6. Calcitriol 0.25 mcg PO DAILY  
7. Pancrease 20,000-4,500- 25,000 unit Capsule, Delayed Two (2) 
PO 4 times a day with meals.  
8. Gabapentin 100 mg PO twice a day.  
9. Latanoprost 0.005 % 1 Drop HS right eye.  
10. Omeprazole 40 mg Capsule PO twice a day.  
11. Risedronate 35 mg PO once a week.  
12. Lactulose 10 gram/15 mL PO three times a day.  
13. Ursodiol 300 mg PO BID  
14. Trazodone 50 mg PO HS as needed for insomnia.  
15. Percocet ___ mg PO once a day as needed for pain.  
16. Tacrolimus 0.5 mg PO Q12H  
17. Drisdol 50,000 unit PO twice a week.  
18. Sertraline 100 mg PO once a day.  
19. AndroGel 1 %(50 mg/5 gram) Gel in One (1) packet Transdermal 
once a day.  
20. Peridex 0.12 % Mouthwash (15) mL Mucous membrane twice a day 
as needed.  
21. Arithromycin Z pac, not started  

 
Discharge Medications:
1. Amylase-Lipase-Protease 20,000-4,500- 25,000 unit Capsule, 
Delayed Release(E.C.) Sig: One (1) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
2. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
3. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day): No script needed, going to rehab.
Disp:*0 Capsule(s)* Refills:*2*
4. Sertraline 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily): 
No script needed, going to rehab.
Disp:*0 Tablet(s)* Refills:*0*
5. Rifaximin 200 mg Tablet Sig: Three (3) Tablet PO BID (2 times 
a day): No script needed, going to rehab.
Disp:*0 Tablet(s)* Refills:*0*
6. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): No script needed, going to rehab.
Disp:*0 Capsule(s)* Refills:*0*
7. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): No script needed, going to rehab.
Disp:*0 Tablet(s)* Refills:*0*
8. Lactulose 10 gram/15 mL Syrup Sig: Fifteen (15) ML PO TID (3 
times a day): No script needed, going to rehab.
Disp:*0 ML(s)* Refills:*0*
9. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO QOD (): No 
script needed, going to rehab.
Disp:*0 Capsule(s)* Refills:*0*
10. Dapsone 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
No script needed, going to rehab.
Disp:*0 Tablet(s)* Refills:*0*
11. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for insomnia.
Disp:*30 Tablet(s)* Refills:*0*
12. Atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day: No 
script needed, going to rehab.
Disp:*0 Tablet(s)* Refills:*0*
13. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day: No script needed, 
going to rehab.
Disp:*0 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
14. Risedronate 35 mg Tablet Sig: One (1) Tablet PO once a week. 
 
15. Meropenem 500 mg Recon Soln Sig: One (1) Recon Soln 
Intravenous Q6H (every 6 hours): No script needed, going to 
rehab.
Disp:*0 Recon Soln(s)* Refills:*0*
16. Peridex 0.12 % Mouthwash Sig: One (1) 15ml Mucous membrane 
twice a day as needed for dental plaque.  
17. AndroGel 1 %(50 mg/5 gram) Gel in Packet Sig: One (1)  
Transdermal once a day.  
18. Outpatient Lab Work
Please perform weekly CBC with diff, BUN, Cr, LFTs had fax these 
results to ___
19. Psyllium     Packet Sig: One (1) Packet PO DAILY (Daily).  
20. Lidocaine-Prilocaine 2.5-2.5 % Cream Sig: One (1) Appl 
Topical BID (2 times a day) as needed for pain: anal fissure.  
21. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed for heartburn.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: hepatic encephalopathy, pneumonia, abdominal abcess

Secondary: Portal vein thrombosis, ESLD s/p liver Tx, 
Depression, Secondary hyperparathyroidism, Chronic pain

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were seen in the hospital for altered mental status, lung 
infection and abdominal infection.  You were intubated because 
you were not breathing well.  Your breathing and mental status 
improved as we treated your liver disease with lactulose and 
rifaximin and as we treated your pneumonia and abdominal 
infection with antibiotics.  

We put a drain to help resolve your abdominal infection, when 
the drain was discontinued we were not able to put it back in 
because there was no longer any fluid collection.  You underwent 
an ERCP and had a stent placed to prevent further reaccumulation 
of infection.  You were not eating well and so a feeding tube 
was placed.

The following changes were made to your medications:
1. You no longer need to take Cartia XT, methadone, lasix, 
Calcitriol, Drisdol, or Percocet.  
2. We have switched your tacrolimus from 0.5mg bid to 0.5 every 
other day.
3. We have added rifaximin to your medications, please take this 
daily.
4. Please continue with the rest of your home medications. 

Please return to the emergency room if you have fevers greater 
than 101, lightheadedness, abdominal pain, sleepiness, or any 
other concerning symptoms.
 
Followup Instructions:
___